US05466689
4-Acetylamino-3,4-dihydro-5-hydroxy-5-methyl-1-(2,4,6- triisopropylphenylsulfonyl)-5H-benz[cd]indole
To a solution of 4-acetylamino-3,4-dihydro-1-(2,4,6-triisopropylphenylsulfonyl)-benz[cd]indol-5-one (3.57 g, 7.0 mmol) in THF (70 ml) was added, at 40° C. in argon streams, a solution of 1M methyl magnesium bromide in THF (8 equivalents relative to ketone compound). The mixture was warmed to room temperature, and stirred for 4 hours. The reaction mixture was added to an ice-cooled saturated aqueous solution of NH4Cl and the mixture was subjected to extraction with ethyl acetate. The extract was washed with an aqueous saline solution and, then, dried (anhydrous Na2SO4). The solvent was distilled off under reduced pressure. The residue was subjected to a silica gel column chromatography, eluting with n-hexane-ethyl acetate (1:2) to afford 1.27 g (36%) of the title compound as an amorphous crystalline product. 1H-NMR(CDCl3, 200MHz) δ: 1.09(d,J=7 Hz,12H), 1.25(d,J=7 Hz,6H), 1.95(s,3H), 2.7-3.0(m,2H), 3.24(dd,J=16, 5 Hz,1H), 4.14(hept,J=7 Hz,2H), 4.54(m,1H), 5.3-5.5(br,1H), 7.1-7.4(m,6H) ppm. IR(KBr):3390, 2965, 1660 cm-1. Anal: Calcd for C29H38N2O4S.H2O: C 65.88%, H 7.63%, N 5.30% Found; C 66.13%, H 7.28%, N 5.69%.

reactant | 4-acetylamino-3,4-dihydro-1-(2,4,6-triisopropylphenylsulfonyl)-benz[cd]indol-5-one | 7.0 mmol, 3.57 g | C(C)(=O)NC1C(C=2C=3C(=CN(C3C=CC2)S(=O)(=O)C2=C(C=C(C=C2C(C)C)C(C)C)C(C)C)C1)=O | C28H34N2O4S
reactant | methyl magnesium bromide | 1M | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 8 equivalents | C1CCOC1 | C4H8O
product | 4-Acetylamino-3,4-dihydro-5-hydroxy-5-methyl-1-(2,4,6- triisopropylphenylsulfonyl)-5H-benz[cd]indole | 1.27 g, 36% | C(C)(=O)NC1C(C=2C=3C(=CN(C3C=CC2)S(=O)(=O)C2=C(C=C(C=C2C(C)C)C(C)C)C(C)C)C1)(C)O | C29H38N2O4S
